US06867297B1
Synthesis of (3S,4S)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-(1-acetyl-1-benzyloxycarbonylethyl)-2-azetidinone
Benzyl 2-methylacetoacetate (825 mg, 4.00 mmole) was added to a suspension of sodium hydride (160 mg, 4.0 mmole) in tetrahydrofuran (10 ml) in a nitrogen stream, and the solution mixture was stirred for 10 min at room temperature and then admixed with cuprous bromide dimethylsulfide complex (822 mg, 5.98 mmole), followed by stirring for 1 hour, addition of (3S,4R)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-phenylthio-2-azetidinone (677 mg, 2.00 mmole) and stirring for 3 hours. The reaction solution was admixed with saturated ammonium chloride solution, and after the insoluble matters were removed by filtration, the filtrate was extracted with ethyl acetate. The ethyl acetate layer was washed with aqueous saturated sodium chloride solution three times, dried over magnesium sulfate and concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (the developing solvent was a 3:1 mixture of n-hexane and ethyl acetate) to give 673 mg (77.6%) of the subject compound consisting of a diastereomer mixture (Products A and B) at a ratio of about 1:1 in the form of colorless oily matter.

reactant | Benzyl 2-methylacetoacetate | 4.00 mmole, 825 mg | CC(C(=O)OCC1=CC=CC=C1)C(=O)C | C12H14O3
reactant | sodium hydride | 4.0 mmole, 160 mg | [H-].[Na+]
reactant | (3S,4R)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-phenylthio-2-azetidinone | 2.00 mmole, 677 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1SC1=CC=CC=C1)=O | C17H27NO2SSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3S,4S)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-(1-acetyl-1-benzyloxycarbonylethyl)-2-azetidinone | 673 mg, 77.6% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1C(C)(C(=O)OCC1=CC=CC=C1)C(C)=O)=O | C23H35NO5Si
